US05302720
A mixture of 2-aminobiphenyl (3.4 g), cyclohexane carbonitrile (6.5 g) and anhydrous aluminium chloride (8 g) was heated at 100° C. for 8 hours then at 120° C. for 8 hours to yield a product which was purified by chromatography on a neutral alumina column which was eluted with dichloromethane to give N-(2-biphenylyl)-cyclohexane-1-carboxamidine (m.p. 148°-150° C.).

reactant | 2-aminobiphenyl | 3.4 g | NC1=C(C=CC=C1)C1=CC=CC=C1 | C12H11N
reactant | cyclohexane carbonitrile | 6.5 g | C1(CCCCC1)C#N | C7H11N
reactant | aluminium chloride | 8 g | [Cl-].[Al+3].[Cl-].[Cl-]
product | N-(2-biphenylyl)-cyclohexane-1-carboxamidine | C1(=C(C=CC=C1)NC(=N)C1CCCCC1)C1=CC=CC=C1 | C19H22N2
